US07576072B2
Step F: Preparation of 6-(4-bromo-2-fluorophenylamino)-7-fluoropyrazolo[1,5-a]pyrimidine-5-carboxylic acid amide.
A mixture of 6-(4-bromo-2-fluorophenylamino)-7-fluoropyrazolo[1,5-a]pyrimidine-5-carboxylic acid (1.00 equivalent), EDCI (1.50 equivalents), and HOBt (1.50 equivalents) in DMF is stirred for 30 minutes. NH4Cl (3.00 equivalents) is added followed by Et3N (2.50 equivalents). After 1 hour, the reaction mixture is diluted with EtOAc and washed with saturated NH4Cl solution, saturated NaHCO3 solution and brine. The organic layer is dried (MgSO4) and concentrated. The product is purified by flash chromatography as necessary.

reactant | 6-(4-bromo-2-fluorophenylamino)-7-fluoropyrazolo[1,5-a]pyrimidine-5-carboxylic acid | 1.00 equivalent | BrC1=CC(=C(C=C1)NC=1C(=NC=2N(C1F)N=CC2)C(=O)O)F | C13H7BrF2N4O2
reactant | EDCI | 1.50 equivalents | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 1.50 equivalents | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NH4Cl | 3.00 equivalents | [NH4+].[Cl-]
reactant | Et3N | 2.50 equivalents | CCN(CC)CC | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-(4-bromo-2-fluorophenylamino)-7-fluoropyrazolo[1,5-a]pyrimidine-5-carboxylic acid amide | BrC1=CC(=C(C=C1)NC=1C(=NC=2N(C1F)N=CC2)C(=O)N)F | C13H8BrF2N5O
